US07314888B1
In 50 ml of tetrahydrofuran is dissolved 10.0 g of 8-(3-methylbutylidene)-1,4-dioxaspiro[4.5]decane. After adding 50 ml of 6 mol/L hydrochloric acid, the mixture thus obtained is stirred at ambient temperature for one hour. Chloroform and water are added to the reaction mixture and the organic layer is separated. The organic layer thus obtained is washed with water and saturated aqueous solution of sodium chloride successively and dried over anhydrous magnesium sulfate, and then the solvent is distilled off under reduced pressure. The residue thus obtained is purified by silica gel column chromatography (eluent; n-hexane:ethyl acetate=98:2) to obtain 6.6 g of 4-(3-methylbutylidene)-1-cyclohexanone as a colorless oily product.

reactant | 8-(3-methylbutylidene)-1,4-dioxaspiro[4.5]decane | 10.0 g | CC(CC=C1CCC2(OCCO2)CC1)C | C13H22O2
reactant | hydrochloric acid | 6 mol/L, 50 ml | Cl | ClH
reactant | Chloroform | C(Cl)(Cl)Cl | CHCl3
reactant | water | O | H2O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 4-(3-methylbutylidene)-1-cyclohexanone | 6.6 g | CC(CC=C1CCC(CC1)=O)C | C11H18O
